US07504425B2
N-Trityl-D-threonine benzyl ester (2.5 g, 5.5 mmol), TEA (2.8 ml, 20 mmol) were dissolved in 100 ml of dry toluene at −50° C. A solution of sulfuryl chloride (800 ul, 8 mmol) in toluene (20 ml) was added in 15 min. The reaction was allowed to warm up to r.t. Ethylacetate (100 ml) was added and this was washed with sat. NaCl, dried over Na2SO4. The product was crystallized in MeOH (10 ml) to give benzyl N-trityl-3(S)-methylaziridine-2(R)-carboylate. NMR (500 MHz, CDCl3) δ: 1.37 (d, 3H), 1.64 (m, 1H), 1.95 (d, 1H), 5.15(d, J=12 Hz, 1H), 5.28(d, J=12 Hz, 1H), 7.19˜7.28 (m, 12H), 7.33˜7.36 (m, 1H), 7.36˜7.39 (m, 3H), 7.51˜7.54 (m, 4H).

reactant | N-Trityl-D-threonine benzyl ester | 5.5 mmol, 2.5 g | C(C1=CC=CC=C1)OC([C@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C@@H](O)C)=O | C30H29NO3
reactant | sulfuryl chloride | 8 mmol, 800 ul | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | Ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl N-trityl-3(S)-methylaziridine-2(R)-carboylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1[C@H]([C@@H]1C)C(=O)OCC1=CC=CC=C1 | C30H27NO2
